US08207178B2
Step E: tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-yl-4-cyanophenylcarbamate
A solution of Na2S2O4 (230 mmol) in water (100 ml) is added to a solution of tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-yl4-cyanophenylcarbamate (46 mmol) in THF (300 ml). The mixture is stirred at room temperature for 2 days and then concentrated. The residue is washed with water and extracted with ethyl acetate. The organic layer is concentrated and the product obtained by crystallization from a mixture of water and methanol.

reactant | Na2S2O4 | 230 mmol | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-yl4-cyanophenylcarbamate | 46 mmol | BrC1=CC(=C(C(=C1)C)SC1=NC(=NC(=C1[N+](=O)[O-])\C=C\N(C)C)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N)C | C28H29BrN6O4S
solvent | water | 100 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-bromo-2,6-dimethylphenylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-yl-4-cyanophenylcarbamate | BrC1=CC(=C(C(=C1)C)SC=1C2=C(N=C(N1)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N)C=CN2)C | C26H24BrN5O2S
